US08138206B2
Production of 1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)piperidin-4-one
The entitled compound was obtained as a brown oily substance, according to the same method as in Reference Example 21 or according to a method similar to it but using 4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}aniline 4-methylbenzenesulfonate produced according to a method described in a patent (WO2005/077905), as the starting compound in place of 4-[(1-cyclobutylpiperidin-4-yl)oxy]aniline.

reactant | 4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}aniline 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)O.C[C@H]1N(CCC1)CCCOC1=CC=C(N)C=C1
reactant | 4-[(1-cyclobutylpiperidin-4-yl)oxy]aniline | C1(CCC1)N1CCC(CC1)OC1=CC=C(N)C=C1 | C15H22N2O
product | 1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)piperidin-4-one | C[C@H]1N(CCC1)CCCOC1=CC=C(C=C1)N1CCC(CC1)=O | C19H28N2O2
